US06420409B1
Trifluoroacetic acid (200 ml) was added to N-t-butyl-2-benzoyloxy-1-pentanesulfonamide (132.8 g). After stirring for 32 hours at room temperature, the solution was concentrated under reduced pressure. After further adding trifluoroacetic acid (100 ml) and stirring for 16 hours at room temperature, the solution was concentrated under reduced pressure to obtain an oily substance (165 g). This substance was dissolved in ethyl acetate and, after adding a saturated aqueous solution of sodium hydrogencarbonate, the solution was stirred for 15 minutes at room temperature. The organic layer was washed with 5% brine, dried over sodium sulfate, and concentrated under reduced pressure to obtain 2-benzoyloxy-1-pentanesulfonamide (92.8 g).

reactant | Trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-t-butyl-2-benzoyloxy-1-pentanesulfonamide | 132.8 g | C(C)(C)(C)NS(=O)(=O)CC(CCC)OC(C1=CC=CC=C1)=O | C16H25NO4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzoyloxy-1-pentanesulfonamide | 92.8 g | C(C1=CC=CC=C1)(=O)OC(CS(=O)(=O)N)CCC | C12H17NO4S
